US08383644B2
(S)-2-({(3R,8S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (49 mg) was reacted with methyl iodide (15 mg) according to General Procedure T to obtain (S)-2-({(3R,8S)-7-[2-(acetyl-methyl-amino)-4-methyl-thiazole-5-sulfonyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester. This was hydrolyzed according to General Procedures N and B to give the title compound (11 mg). LCMS: (m/z) 924.

reactant | (S)-2-({(3R,8S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 49 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)NC(C)=O)C)=O | C48H41Cl2N5O9S2
reactant | methyl iodide | 15 mg | CI | CH3I
product | (S)-2-({(3R,8S)-7-[2-(acetyl-methyl-amino)-4-methyl-thiazole-5-sulfonyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)N(C)C(C)=O)C)=O | C49H43Cl2N5O9S2
